US05041455
A. 3-(4-propylthio-1,2,5-thiadiazol-3-yl)pyridine
Sodium hydrogen sulfide (220 mg, 3 mmol) was added over 30 min. to a solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (0.59 g, 3 mmol) in DMF (20 ml) at room temperature. Potassium carbonate (1.24 g, 9 mmol) and iodopropan (0.76 g, 4.5 mmol) were added. The reaction mixture was stirred at room temperature for 30 min. Water was added and the mixture extracted with ether. The combined ether phases were dried and evaporated to give the title compound in 89% (0.63 g) yield.

reactant | Sodium hydrogen sulfide | 3 mmol, 220 mg | S.[Na]
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 3 mmol, 0.59 g | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | Potassium carbonate | 9 mmol, 1.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodopropan | 4.5 mmol, 0.76 g | ICCC | C3H7I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 3-(4-propylthio-1,2,5-thiadiazol-3-yl)pyridine | C(CC)SC=1C(=NSN1)C=1C=NC=CC1 | C10H11N3S2
